US07238808B2
3-(2-Cyclopropyl-pyridin-3-ylethynyl)-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine
The title compound was prepared from 3-ethynyl-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine (example C.1) (355 mg, 1.0 mmol) and trifluoro-methanesulfonic acid 2-cyclopropyl-pyridin-3-yl ester (Example B.10) (294 mg, 1.3 mmol) according to general procedure II. Obtained as a yellow solid (220 mg, 46%). MS (ISP) 473.3 [(M+H)+]; mp 202° C.

reactant | 3-ethynyl-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 1.0 mmol, 355 mg | C(#C)C=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C16H7F6N3
reactant | trifluoro-methanesulfonic acid 2-cyclopropyl-pyridin-3-yl ester | 1.3 mmol, 294 mg | C1(CC1)C1=NC=CC=C1OS(=O)(=O)C(F)(F)F | C9H8F3NO3S
product | 3-(2-Cyclopropyl-pyridin-3-ylethynyl)-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | C1(CC1)C1=NC=CC=C1C#CC=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C24H14F6N4
